US07968554B2
A solution of 3-chloro-4-fluorobenzoyl chloride (21.23 g, 110 mmol, Avocado) in tetrahydrofuran (50 mL) was added to a solution of 5-amino-o-cresol (6.16 g, 50 mmol, Aldrich), triethylamine (17.5 mL, 125 mmol, Aldrich) and tetrahydrofuran (50 mL) dropwise with magnetic stirring and cooling in an ice-water bath. When the addition was complete, the mixture was allowed to warm to room temperature and stirred for 16 hours. The mixture was then diluted with water (125 mL) and saturated aqueous sodium bicarbonate solution (125 mL). After stirring for another 30 minutes, precipitate was collected to give crude 3-chloro-4-fluoro-benzoic acid 5-(3-chloro-4-fluoro-benzoylamino)-2-methyl-phenyl ester as an off-white powder. (Yield 21.83 g).

reactant | 3-chloro-4-fluorobenzoyl chloride | 110 mmol, 21.23 g | ClC=1C=C(C(=O)Cl)C=CC1F | C7H3Cl2FO
reactant | 5-amino-o-cresol | 50 mmol, 6.16 g | NC1=CC=C(C(=C1)O)C | C7H9NO
reactant | triethylamine | 125 mmol, 17.5 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 125 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 125 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-fluoro-benzoic acid 5-(3-chloro-4-fluoro-benzoylamino)-2-methyl-phenyl ester | ClC=1C=C(C(=O)NC=2C=CC(=C(C2)OC(C2=CC(=C(C=C2)F)Cl)=O)C)C=CC1F | C21H13Cl2F2NO3
